************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: DFF
* View Name:     schematic
* Netlisted on:  Nov 28 11:22:30 2016
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM p5vonly=0
+ phires=0

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    Lab4NAND
* View Name:    schematic
************************************************************************

.SUBCKT Lab4NAND a b out
*.PININFO a:B b:B out:B
MTN1 out a net13 gnd! nfet m=1 l=180n w=1.44u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTN0 net13 b gnd! gnd! nfet m=1 l=180n w=1.44u nf=1 par=1 rf=0 gcon=1 
+ mSwitch=0 bentgate=0 psp=0 idg=0 gns=0
MTP1 out b vdd! vdd! pfet m=1 l=180n w=2.4u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTP0 out a vdd! vdd! pfet m=1 l=180n w=2.4u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
.ENDS

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    Week4Lab1stInverter
* View Name:    schematic
************************************************************************

.SUBCKT Week4Lab1stInverter in out
*.PININFO in:I out:I
MTN0 out in gnd! gnd! nfet m=1 l=180n w=600n nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTP0 out in vdd! vdd! pfet m=1 l=180n w=1.8u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
.ENDS

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    DFF
* View Name:    schematic
************************************************************************

.SUBCKT DFF CLK Data Q QNOT
*.PININFO CLK:B Data:B Q:B QNOT:B
XI8 net16 Data net12 / Lab4NAND
XI7 CLK net12 net22 / Lab4NAND
XI5 Q net16 QNOT / Lab4NAND
XI4 net15 QNOT Q / Lab4NAND
XI3 net15 net23 net16 / Lab4NAND
XI1 net13 CLK net15 / Lab4NAND
XI0 net12 net15 net13 / Lab4NAND
XI6 net22 net23 / Week4Lab1stInverter
.ENDS

